US07888383B2
b) {5-Fluoro-2-methyl-1-[4-(morpholine-4-sulfonyl)-benzyl]-1H-indol-3-yl}-acetic acid
To a stirring suspension of (5-fluoro-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester (100 mg, 0.43 mmol) in dry DMSO (1 ml), is added NaH (29 mg, 0.73 mmol). The reaction mixture is stirred at room temperature for 15 min after which time 4-(4-bromomethyl-benzenesulfonyl)-morpholine (136 mg, 0.43 mmol) is added. The reaction mixture is diluted with water (2 ml) and treated with 1N HCl aq to acidic pH. The crude reaction mixture is purified by reverse phase chromatography on a C18 Isolute™ cartridge (70 g) eluting in 0-100% MeCN in water using a FlashMaster Personal™ and GradMaster™; [M+H]+ 448.

reactant | (5-fluoro-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester | 0.43 mmol, 100 mg | C(C)OC(CC1=C(NC2=CC=C(C=C12)F)C)=O | C13H14FNO2
reactant | NaH | 0.73 mmol, 29 mg | [H-].[Na+]
reactant | 4-(4-bromomethyl-benzenesulfonyl)-morpholine | 0.43 mmol, 136 mg | BrCC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C11H14BrNO3S
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | water | 2 ml | O | H2O
product | {5-Fluoro-2-methyl-1-[4-(morpholine-4-sulfonyl)-benzyl]-1H-indol-3-yl}-acetic acid | FC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1)C)CC(=O)O | C22H23FN2O5S
